US07074799B2
Cool a solution of 2-bromo-3-fluoro-pyridine (542 mg, 3.08 mmol) in dry THF to −78° C. using a dry ice acetone bath. Add n-butyl-lithium (1.6 M in THF, 2.0 mL) to the reaction mixture dropwise via syringe over a 20 minute period. After stirring for 1.5 hours at −78° C., add tributyltin chloride slowly via syringe and remove the cooling bath. After 2 hours, partition the reaction mixture between EtOAc and brine, dry the EtOAc layer (Na2SO4) and remove the solvents under reduced pressure. Flash chromatography (ether/hexanes) yields 3-fluoro-2-tributylstannanyl-pyridine as a colorless oil.

reactant | 2-bromo-3-fluoro-pyridine | 3.08 mmol, 542 mg | BrC1=NC=CC=C1F | C5H3BrFN
reactant | n-butyl-lithium | 1.6 M, 2.0 mL | C(CCC)[Li]
reactant | tributyltin chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | C1CCOC1 | C4H8O
product | 3-fluoro-2-tributylstannanyl-pyridine | FC=1C(=NC=CC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C5H3FN.3C4H9.Sn/c6-5-2-1-3-7-4-5;3*1-3-4-2;/h1-3H;3*1,3-4H2,2H3;
